### PR TITLE
chore(Algebra/Squarefree/Basic): fix erw

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR addresses an instance of the `erw` linter in `Algebra/Squarefree/Basic` by adding a `squarefree_def` theorem and using this to isolate the implementation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Squarefree/Basic.lean [hunk 1]
```diff
@@ -48,7 +51,7 @@ theorem squarefree_one [CommMonoid R] : Squarefree (1 : R) :=
 
 @[simp]
 theorem not_squarefree_zero [MonoidWithZero R] [Nontrivial R] : ¬Squarefree (0 : R) := by
-  erw [not_forall]
+  rw [squarefree_def, not_forall]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Squarefree/Basic.lean:54]: Or just 
```suggestion
  rw [Squarefree, not_forall]
```
which avoids needing the new theorem.

Comment (b-mehta) [reply Mathlib/Algebra/Squarefree/Basic.lean:54]: `Squarefree.eq_def` works too, if you really (for whatever reason) want to be rewriting with a theorem

**Comment by BoltonBailey** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25915
